US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-tert-butylaniline were reacted to yield N2,N4-bis(4-tert-butylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.77 (d, 1H, J=3.9 Hz), 7.47 (d, 2H, J=9 Hz), 7.38 (m, 4H), 7.30 (d, 2H, J=8.7 Hz), 1.34 (s, 9H), 1.32 (s, 9H); LCMS: ret. time: 34.09 min.; purity: 93%; MS: 393 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-tert-butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
product | N2,N4-bis(4-tert-butylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C(C)(C)C)F | C24H29FN4
